US07074817B2
{1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methyl acetate
Acetyl chloride (0.222 mL, 3.08 mmol) was added to a stirring solution of {1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methanol (0.507 g, 1.23 mmol) and N,N-diisopropylethylamine (0.547 mL, 3.08 mmol) in methylene chloride (8 mL) at 0° C. under a nitrogen atmosphere over a period of 5 minutes. After the reaction mixture was stirred at room temperature overnight, the reaction quenched carefully with water. The aqueous mixture was extracted with ethyl acetate. The organic extract was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to afford the title compound as a solid (0.557 g, 99.6%), mp: 125-126° C. Mass spectrum (ESI, [M+H]+) m/z 454. 1HNMR (400 MHz, DMSO-d6): δ 7.86 (s, 1H), 8.77 (d, 2H, J=8.96 Hz), 7.48-7.40 (m, 4H), 7.09 (d, 2H, J=7.94 Hz), 6.90 (d, 2H, J=7.94 Hz), 6.70 (s, 1H), 5.44 (s, 2H), 5.23 (s, 2H), 2.23 (s, 3H), and 1.85 ppm (s, 3H).

reactant | Acetyl chloride | 3.08 mmol, 0.222 mL | C(C)(=O)Cl | C2H3ClO
reactant | {1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methanol | 1.23 mmol, 0.507 g | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)CO)C=C1 | C24H20F3NO2
reactant | N,N-diisopropylethylamine | 3.08 mmol, 0.547 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | {1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methyl acetate | 0.557 g, 99.6% | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C=C1)C | C26H22F3NO3
